US07842688B2
e) tert-Butyl 4-(4-allyloxyphenyl)-3-[1-(3-methoxypropyl)-2-oxo-1,2,3,4-tetrahydroquinolin-7-ylmethoxy]piperidine-1-carboxylate
Analogously to Method D, 3.26 g of tert-butyl 4-(4-allyloxyphenyl)-3-hydroxypiperidine-1-carboxylate and 2.62 g of 7-chloromethyl-1-(3-methoxypropyl)-3,4-dihydro-1H-quinolin-2-one are reacted. The title compound is obtained as a slightly yellowish oil. Rf=0.16 (1:1 EtOAc-heptane); Rt=5.50.

reactant | tert-butyl 4-(4-allyloxyphenyl)-3-hydroxypiperidine-1-carboxylate | 3.26 g | C(C=C)OC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)O | C19H27NO4
reactant | 7-chloromethyl-1-(3-methoxypropyl)-3,4-dihydro-1H-quinolin-2-one | 2.62 g | ClCC1=CC=C2CCC(N(C2=C1)CCCOC)=O | C14H18ClNO2
product | tert-Butyl 4-(4-allyloxyphenyl)-3-[1-(3-methoxypropyl)-2-oxo-1,2,3,4-tetrahydroquinolin-7-ylmethoxy]piperidine-1-carboxylate | C(C=C)OC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC=C2CCC(N(C2=C1)CCCOC)=O | C33H44N2O6
